US07091212B2
α-(5-BRomo-1,3-benzodioxol-4-yl)-5-isoquinolinemethanol
To a solution of 4-bromo-1,2-(methylendioxy)benzene (3.01 g, 15 mmol) in THF (20 mL) at −78° C. was added dropwise lithium diisopropylamide (10.6 mL of 1.5 M in cyclohexane, 16 mmol). The reaction mixture was stirred at −78° C. under argon for 20 minutes. A brown solution was formed. A solution of 5-isoquinolinecarboxaldehyde (1.90 g, 12 mmol) in THF (4 mL) was added dropwise. The resulting mixture was stirred at −78° C. for 10 minutes and warmed to room temperature. Stirring was continued for 30 minutes at room temperature, and then the mixture was quenched with saturated NH4Cl solution. The product was extracted with EtOAc and the solvent was removed under reduced pressure. Chromatography (SiO2 Type-H, 35% EtOAc in Hexanes) of the residue yielded the title compound as a yellow solid (2.8 g, 7.8 mmol, 65% yield): mp 173–175° C.;

reactant | 4-bromo-1,2-(methylendioxy)benzene | 15 mmol, 3.01 g | BrC1=CC2=C(C=C1)OCO2 | C7H5BrO2
reactant | lithium diisopropylamide | 16 mmol, 1.5 M, 10.6 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 5-isoquinolinecarboxaldehyde | 12 mmol, 1.90 g | C1=NC=CC=2C(=CC=CC12)C=O | C10H7NO
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | α-(5-BRomo-1,3-benzodioxol-4-yl)-5-isoquinolinemethanol | 7.8 mmol, 2.8 g, 65% yield | BrC1=C(C2=C(OCO2)C=C1)C(O)C=1C=2C=CN=CC2C=CC1 | C17H12BrNO3
